US09255090B2
Synthesis of 5-bromo-8-hydroxy-3,4-dihydro-1H-isoquinoline-2-carboxylic acid benzyl ester (C17H16NO3Br, MW=361.03)
A solution of 5-bromo-8-methoxy-3,4-dihydro-isoquinoline (312 mg, 1.3 mmol, 1.0 eq.) in chlorobenzene (18.4 mL) was treated with aluminium chloride (520 mg, 3.9 mmol, 3.0 eq.) and stirred at 130° C. for 1 hour. After cooling to r.t., sat. aq. NaHCO3 soln. was added and the mixture was extracted with AcOEt (2×). The combined org. layers were dried over MgSO4, filtered, and concentrated in vacuo. The residue was partially purified by flashmaster (column: 25 g, flow: 30 mL/min, 25 fractions of 30 mL, AcOEt+10% MeOH) to yield a yellow oil. To an ice-cooled solution of the residue in MeOH (13.1 mL), NaBH4 (98 mg, 2.6 mmol, 2.0 eq.) was added. The mixture was stirred at 0° C. for 30 min. The reaction mixture was concentrated in vacuo. The residue was partitioned between water and AcOEt. The layers were separated and the aq. phase was extracted with AcOEt (2×). The comb. org. phases were dried over MgSO4, filtered, and concentrated in vacuo. To an ice-cooled solution of the residue and triethylamine (0.54 mL, 3.9 mmol, 3.0 eq.) in DCM (36 mL), benzyl chloroformate (0.21 mL, 1.43 mmol, 1.1 eq.) was added dropwise. Upon completion of the addition, the cooling bath was removed and the suspension was stirred at r.t. for 4 hours. The reaction was quenched with 1M aq. citric acid soln. (36 mL). The layers were separated. The aq. phase was extracted with DCM (3×). The comb. org. phases were dried over MgSO4, filtered and concentrated in vacuo. The residue was purified by flashmaster (column: 25 g, flow: 30 mL/min, 27 fractions of 30 mL, Heptane 100% to Heptane+20% AcOEt). The residue was dissolved in THF (5 mL) and 1M aq. NaOH soln. (5 mL) was added. The mixture was stirred at r.t. for 18 hours. The org. solvent was removed in vacuo. The resulting aq. layer was acidified with 2N aq. HCl soln. and extracted with DCM (3×10 ml). The comb. org. phases were dried over MgSO4 and concentrated in vacuo to give the title compound as a beige solid.

reactant | 5-bromo-8-methoxy-3,4-dihydro-isoquinoline | 1.3 mmol, 312 mg, 1.0 eq. | BrC1=C2CCN=CC2=C(C=C1)OC | C10H10BrNO
reactant | aluminium chloride | 3.9 mmol, 520 mg, 3.0 eq. | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | NaBH4 | 2.6 mmol, 98 mg, 2.0 eq. | [BH4-].[Na+]
reactant | triethylamine | 3.9 mmol, 0.54 mL, 3.0 eq. | C(C)N(CC)CC | C6H15N
reactant | benzyl chloroformate | 1.43 mmol, 0.21 mL, 1.1 eq. | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | chlorobenzene | 18.4 mL | ClC1=CC=CC=C1 | C6H5Cl
solvent | MeOH | 13.1 mL | CO | CH4O
solvent | DCM | 36 mL | C(Cl)Cl | CH2Cl2
product | 5-bromo-8-hydroxy-3,4-dihydro-1H-isoquinoline-2-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CC2=C(C=CC(=C2CC1)Br)O | C17H16BrNO3
